US06051679
3-(2-bromo)ethoxy-4-methylthiophene
4.2 g of 3-methoxy-4-methylthiophene was added to a mixture of 40 mL of toluene, 8.2 g of 2-bromo-1-ethanol (Aldrich) and 500 mg of NaHSO4. The resulting mixture was heated until the produced methanol had been distilled off and the temperature rose to 110° C. The product was cooled and washed several times with water and, subsequently, extracted with diethyl ether. The organic phase was dried with magnesium sulfate and then evaporated. The product was purified by column chromatography using silica gel and hexanes as eluent. Yield=55%.

reactant | 3-methoxy-4-methylthiophene | 4.2 g | COC1=CSC=C1C | C6H8OS
reactant | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
reactant | 2-bromo-1-ethanol | 8.2 g | BrCCO | C2H5BrO
reactant | NaHSO4 | 500 mg | OS(=O)(=O)[O-].[Na+]
solvent | methanol | CO | CH4O
product | 3-(2-bromo)ethoxy-4-methylthiophene | Yield=55% | BrCCOC1=CSC=C1C | C7H9BrOS
